US04213995
25.4 gm (0.10 mol) of 2-(2-chloro-4-methyl-5-nitro-phenylimino)-imidazolidine were hydrogenated in a shaker autoclave at 25° to 30° C. and atmospheric pressure in the presence of Raney nickel and in a 1:1 mixture of methanol and tetrahydrofuran until the theoretical amount of hydrogen had been absorbed. Thereafter, the catalyst was separated by suction filtration, and the filtrate was evaporated to dryness in vacuo. The residue was dissolved in 2 N hydrochloric acid, and the solution was extracted with ether; the ether extracts were discarded. The aqueous phase was fractionally extracted with ether at stepwisely increasing pH-values (alkalization with 2 N NaOH), and the uniform fractions were combined, dried over magnesium sulfate and filtered. The ether was removed from the filtrate in vacuo until the weight of the residue remained constant, leaving 6.85 gm (30.5% of theory) of 2-(5-amino-2-chloro-4-methylphenylimino)-imidazolidine, m.p. 155°-157° C., Rf -value 0.70 in the mobile phase 70 parts ethyl acetate, 50 parts isopropanol, 20 parts concentrated ammonium hydroxide; carrier: silicagel G; detector: ultraviolet light and potassium iodoplatinate.

reactant | 2-(2-chloro-4-methyl-5-nitro-phenylimino)-imidazolidine | 0.10 mol, 25.4 gm | ClC1=C(C=C(C(=C1)C)[N+](=O)[O-])N=C1NCCN1 | C10H11ClN4O2
reactant | methanol | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(5-amino-2-chloro-4-methylphenylimino)-imidazolidine | 6.85 gm, 30.5% | NC=1C(=CC(=C(C1)N=C1NCCN1)Cl)C | C10H13ClN4
